US20010020112A1
To a stirred solution of ethyl 4-oxo-2-phenylcyclohex-2-enecarboxylate (500 mg, 2.05 mmol) in MeOH (10 ml) at 0° C., NaBH4(77.5 mg, 2.05 mmol) was added by portions. After stirring for 45 minutes, dil.HCl aq. was added to the reaction mixture and the solvent was evaporated under reduced pressure. The residue was added water and extracted with AcOEt. The organic layer was washed with water and brine, dried over MgSO4. Concentration of the organic layer afford 504 mg of ethyl 4-hydroxy-2-phenylcyclohex-2-enecarboxylate (y=100%) as a pale yellow crystal. 1H-NMR (ppm, 300 MHz, CDCl3) δ 7.23-7.34(5H, m), 6.10-6.22(1H, m), 4.30-4.50(1H, m), 3.90-4.08(1H, m), 3.72 and 3.64(1H, t and t, J=5.8 and 5.3 Hz), 1.60-2.30(4H, m), 1.00 and 1.10(3H, m)

reactant | ethyl 4-oxo-2-phenylcyclohex-2-enecarboxylate | 2.05 mmol, 500 mg | O=C1C=C(C(CC1)C(=O)OCC)C1=CC=CC=C1 | C15H16O3
reactant | NaBH4 | 2.05 mmol, 77.5 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | ethyl 4-hydroxy-2-phenylcyclohex-2-enecarboxylate | 504 mg, 100% | OC1C=C(C(CC1)C(=O)OCC)C1=CC=CC=C1 | C15H18O3
